US08455528B2
4-{5-[(4-chlorophenyl)thio]-1-methyl-1H-imidazol-4-yl}benzonitrile
4-(5-Chloro-1-methyl-1H-imidazol-4-yl)benzonitrile (1 g), 4-chlorobenzenethiol (797 mg), and 1.3 ml of triethylamine in 20 mL of DMF were heated in a microwave tube at 180° C. for 90 min. The reaction mixture was purified by reverse phase HPLC with MS detector to afford the title compound. 1H NMR (500 MHz, (CDCl3): 8.21 (d, 2H), 7.83 (s, 1H), 7.66 (d, 2H), 7.45 (d, 2H), 6.98 (d, 2H), 3.63 (s, 3H). LCMS: [M+1]=326.

reactant | 4-(5-Chloro-1-methyl-1H-imidazol-4-yl)benzonitrile | 1 g | ClC1=C(N=CN1C)C1=CC=C(C#N)C=C1 | C11H8ClN3
reactant | 4-chlorobenzenethiol | 797 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | triethylamine | 1.3 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-{5-[(4-chlorophenyl)thio]-1-methyl-1H-imidazol-4-yl}benzonitrile | ClC1=CC=C(C=C1)SC1=C(N=CN1C)C1=CC=C(C#N)C=C1 | C17H12ClN3S
